US05151356
51.5 g of 1-benzyl-5-(2-hydroxyethoxy)hydantoin and 20 g of triethylamine were dissolved in 500 ml of methylene chloride, and a solution of 34.8 g of α-bromo-α-pivaloyl-2-chloroacetanilide in 200 ml of methylene chloride was dropwise added thereto in about 1 hour. After completion of the dropwise addition, the solution was stirred for 2 hours. Then, the reaction solution was washed twice with 300 ml of dilute hydrochloric acid, and twice with 300 ml of water. After drying the reaction solution with sodium sulfate, it was concentrated and purified by silica gel chromatography to obtain 42.2 g of oily α-pivaloyl-α-(1-benzyl-5-(2-hydroxyethoxy)hydantoin-3-yl)-2-chloroacetanilide. (Yield: 84%)

reactant | 1-benzyl-5-(2-hydroxyethoxy)hydantoin | 51.5 g | C(C1=CC=CC=C1)N1C(=O)NC(=O)C1OCCO | C12H14N2O4
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
reactant | α-bromo-α-pivaloyl-2-chloroacetanilide | 34.8 g | BrC(C(=O)NC1=CC=CC=C1)(Cl)C(C(C)(C)C)=O | C13H15BrClNO2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | α-pivaloyl-α-(1-benzyl-5-(2-hydroxyethoxy)hydantoin-3-yl)-2-chloroacetanilide | 42.2 g, Yield: 84% | C(C(C)(C)C)(=O)C(C(=O)NC1=CC=CC=C1)(Cl)N1C(N(C(C1=O)OCCO)CC1=CC=CC=C1)=O | C25H28ClN3O6
